US09278968B2
A suspension of 500 mg of ethyl 8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxylate, 0.35 ml of 2,3-difluorobenzylbromide, and 650 mg of potassium carbonate in 8.6 ml of N,N-dimethylformamide (DMF) was stirred at 60° C. for 1 hour. The reaction mixture was left to be cooled to room temperature and water was then added thereto. The resulting solid was collected by filtration and washed with water. The solid was washed with diisopropyl ether to obtain 650 mg of ethyl 8-[(2,3-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate.

reactant | ethyl 8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 500 mg | OC=1C=2N(C=CC1)C(=C(N2)C)C(=O)OCC | C11H12N2O3
reactant | 2,3-difluorobenzylbromide | 0.35 ml | FC1=C(CBr)C=CC=C1F | C7H5BrF2
reactant | potassium carbonate | 650 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8.6 ml | CN(C=O)C | C3H7NO
product | ethyl 8-[(2,3-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 650 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)OCC)C=CC=C1F | C18H16F2N2O3
